US07951829B2
Reaction of the propiolic acid KK2 with 4-bromobenzene-1,2-diamine dihydrochloride KK3 in refluxing ethylene glycol gives chlorovinylbenzimidazole KK4.

reactant | propiolic acid | C(C#C)(=O)O | C3H2O2
reactant | 4-bromobenzene-1,2-diamine dihydrochloride | Cl.Cl.BrC=1C=C(C(=CC1)N)N
solvent | ethylene glycol | C(CO)O | C2H6O2
product | chlorovinylbenzimidazole | ClC=CC=1NC2=C(N1)C=CC=C2 | C9H7ClN2
